US09359359B2
To a solution of 8-chloro-3-ethyl-1-(3-hydroxypropyl)-1H-purine-2,6(3H,7H)-dione (2.2 g, 8.09 mmol) in DMF (10 mL) was added 1-(bromomethyl)-4-chlorobenzene (2.47 g, 12.11 mmol), followed by potassium carbonate (2.23 g, 16.18 mmol) and TBAI (15 mg, 0.042 mmol). The reaction was stirred at 50° C. for 2 h. The reaction was cooled to room temperature and partitioned between ethyl acetate and water. The organic phase was washed with brine and dried over sodium sulfate, and concentrated to give a crude product which was purified by silica gel chromatography eluting with petroleum/ethyl acetate (5:1 to 1:2) to give 8-chloro-7-(4-chlorobenzyl)-3-ethyl-1-(3-hydroxypropyl)-1H-purine-2,6(3H,7H)-dione (2.3 g, 71.8% yield) as white solid. LCMS retention time 1.485 min; LCMS MH+ 397.

reactant | 8-chloro-3-ethyl-1-(3-hydroxypropyl)-1H-purine-2,6(3H,7H)-dione | 8.09 mmol, 2.2 g | ClC1=NC=2N(C(N(C(C2N1)=O)CCCO)=O)CC | C10H13ClN4O3
reactant | 1-(bromomethyl)-4-chlorobenzene | 12.11 mmol, 2.47 g | BrCC1=CC=C(C=C1)Cl | C7H6BrCl
reactant | potassium carbonate | 16.18 mmol, 2.23 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | TBAI | 0.042 mmol, 15 mg | CCCC[N+](CCCC)(CCCC)CCCC.[I-]
product | 8-chloro-7-(4-chlorobenzyl)-3-ethyl-1-(3-hydroxypropyl)-1H-purine-2,6(3H,7H)-dione | 2.3 g, 71.8% yield | ClC1=NC=2N(C(N(C(C2N1CC1=CC=C(C=C1)Cl)=O)CCCO)=O)CC | C17H18Cl2N4O3
